US07888364B2
4-(bromomethyl)-N-(4-chloro-3-(pyridin-2-yl)phenyl)benzamide (85 mg) was dissolved in DMSO (1 mL) and stirred for 1 h with methylpiperazine. The reaction mixture was concentrated, and the crude residue was purified by reverse phase HPLC to yield N-(4-chloro-3-(pyridin-2-yl)phenyl)-4-((4-methylpiperazin-1-yl)methyl) benzamide. MS (Q1) 421.3 (M)+.

reactant | 4-(bromomethyl)-N-(4-chloro-3-(pyridin-2-yl)phenyl)benzamide | 85 mg | BrCC1=CC=C(C(=O)NC2=CC(=C(C=C2)Cl)C2=NC=CC=C2)C=C1 | C19H14BrClN2O
reactant | methylpiperazine | CN1CCNCC1 | C5H12N2
solvent | DMSO | 1 mL | CS(=O)C | C2H6OS
product | N-(4-chloro-3-(pyridin-2-yl)phenyl)-4-((4-methylpiperazin-1-yl)methyl) benzamide | ClC1=C(C=C(C=C1)NC(C1=CC=C(C=C1)CN1CCN(CC1)C)=O)C1=NC=CC=C1 | C24H25ClN4O
